US03953604
A solution of 1-(4-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-phenoxy-propane (6.04 g) in diethyl oxalate (15 ml) was added to a suspension of sodium ethoxide, prepared from sodium (3.0 g) and ethanol (30 ml), in benzene (50 ml). The mixture was heated under reflux for 1.5 hours, then cooled and filtered. The residual yellow sodium salt was washed with ether, dried, and dissolved in a mixture of glacial acetic acid (80 ml) and concentrated hydrochloric acid (30 ml). This solution was heated under reflux for 1 hour, cooled, and poured with stirring into cold water (500 ml). The precipitated solid (6.0 g) was filtered off and crystallized from methanol to give 1-(2-carboxychromon-7-yloxy-3-phenoxypropane (4.3 g) as an off-white solid, m.p. 222°-223.5°.

reactant | 1-(4-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-phenoxy-propane | 6.04 g | C(C)(=O)C1=C(C=C(OCC(COC2=CC=CC=C2)O)C=C1)O | C17H18O5
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 3.0 g | [Na] | Na
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | diethyl oxalate | 15 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2-carboxychromon-7-yloxy-3-phenoxypropane | 4.3 g | C(=O)(O)C(COC1=CC=C2C(C=COC2=C1)=O)COC1=CC=CC=C1 | C19H16O6
